US04132733
25 l of active coal (based on pit coal, granulation: 2-4 mm) which had been freed from iron by sulfuric acid (at 1%) and subsequently neutralized by washing with water, were charged into a tube having a length of 10 m and being equipped with a heating jacket (nominal size: 50 mm) in such a way, that no gas bubbles are formed while charging. At a temperature of from 75°-85° C. a solution prepared at 80° C. of 56 parts by weight of sorbic acid (at 89%), 15.8 parts by weight of potassium hydroxide (scales, at 90%) and of 35.2 parts by weight of water is pumped through this column under a nitrogen atmosphere from the bottom to the top at an hourly rate of 2.5 kg. The purified solution is filtered while still hot and cooled to room temperature within the next 4 hours. The crystallization product is removed by centrifugation and dried in vacuo at 50° C. 1.08 kg of potassium disorbate are obtained per hour, which contains from 0.6-0.7 weight % of potassium sorbate more than the stoichiometric quantity would stand for. The yield is from 98-99%, calculated on the sorbic acid (at 100%). The mother liquor is re-used after dissolution of 22.4 parts by weight of crude sorbic acid and of 5.8 parts by weight of potassium hydroxide in 100 parts by weight of mother liquor.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sorbic acid | C(\C=C\C=C\C)(=O)O | C6H8O2
reactant | potassium hydroxide | [OH-].[K+]
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | potassium disorbate | 1.08 kg | C(\C=C\C=C\C)(=O)[O-].C(\C=C\C=C\C)(=O)[O-].[K+].[K+] | InChI=1S/2C6H8O2.2K/c2*1-2-3-4-5-6(7)8;;/h2*2-5H,1H3,(H,7,8);;/q;;2*+1/p-2/b2*3-2+,5-4+;;
